US06184242B2
4-(4-Aminomethylbenzyl)-nitrobenzene (500 mg) was dissolved in dichloromethane (7 mL) and heated with 4-methoxybenzenesulfonyl chloride (426 mg) and triethylamine (0.3 mL). The mixture was stirred at room temperature for 15 hours, poured into dilute aqueous hydrochloric acid, and extracted with dichloromethane (3×). The solvent was evaporated to give 4-[4-(4-methoxyphenyl)sulfonylaminomethylbenzyl]-nitrobenzene as a yellow solid (851 mg, ˜100%), and was used in the next step without further purification.

reactant | 4-(4-Aminomethylbenzyl)-nitrobenzene | 500 mg | NCC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H14N2O2
reactant | 4-methoxybenzenesulfonyl chloride | 426 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 4-[4-(4-methoxyphenyl)sulfonylaminomethylbenzyl]-nitrobenzene | 851 mg, ~100% | COC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C21H20N2O5S
